US07144665B2
4-Diethylamino-2-(1,2-epoxypropoxy)benzaldehyde N,N-diphenylhydrazone
A mixture of the 4-diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone (10.0 g, 27.82 mmol, prepared as described above), 85% powdered potassium hydroxide (3.7 g, 0.05 mol), and anhydrous sodium sulfate (1.4 g, 11.13 mmol) in 35 ml of epichlorohydrin (commercially obtained from Aldrich, Milwaukee, Wis.) was stirred vigorously at 30–35° C. until the 4-diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone disappeared (2.5 hours, as determined by thin layer chromatography (TLC)). After termination of the reaction by cooling the mixture to room temperature, the mixture was diluted with diethyl ether, and washed with copious amounts of water until the washed water reached a pH value of 7. The organic layer was dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered. The diethyl ether and unreacted epichlorohydrin were removed by evaporation under a vacuum. The crystals formed upon standing at room temperature were filtered off and washed with 2-propanol to give 9.0 g (77.6%) of the desired compound. The melting point was found to be 86–87° C. (recrystallized from 10:1 v/v of 2-propanol:ether mixture). The 1H NMR spectrum (100 MHz) of the product in CDCl3 was characterized by the following chemical shifts (δ, ppm): 8.0 (d, 1H, 6-H of 1,2,4-subst. Ph); 7.8–7.0 (m, 11H, CH═N, Ph); 6.45 (d, 1H, 5-H of 1,2,4-subst. Ph); 6.1 (s, 1H, 3-H of 1,2,4-subst. Ph); 4.35–3.75 (m, 2H, OCH2); 3.35 (q, 4H, CH2); 3.05 (p, 1H, CH); 3.65 (t, 1H, one of CH2 of oxirane); 2.45 (dd, 1H, one of CH2 of oxirane); 1.15 (t, 6H, CH3). Elemental analysis yielded the following values in weight percent C, 74.95; H, 6.88; and N, 9.92; which compared with calculated values for C26H29N3O2 in weight percent of C, 75.15; H, 7.03; and N, 10.11.

reactant | 4-diethylamino-2-hydroxybenzaldehyde N,N-diphenylhydrazone | 27.82 mmol, 10.0 g | C1(=CC=CC=C1)N(N=CC1=C(C=C(C=C1)N(CC)CC)O)C1=CC=CC=C1 | C23H25N3O
reactant | potassium hydroxide | 0.05 mol, 3.7 g | [OH-].[K+]
reactant | sodium sulfate | 11.13 mmol, 1.4 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | epichlorohydrin | 35 ml | C(Cl)C1CO1 | C3H5ClO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Diethylamino-2-(1,2-epoxypropoxy)benzaldehyde N,N-diphenylhydrazone | 9.0 g, 77.6% | C1(=CC=CC=C1)N(N=CC1=C(C=C(C=C1)N(CC)CC)OC1C(C)O1)C1=CC=CC=C1 | C26H29N3O2
